US06610707B1
1-Hydroxybenzotriazole hydrate (8.67 g), phenylacetic acid (8.0 g), N-methylmorpholine (14.69 ml), 4-dimethylaminopyridine (3.3 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (12.29 g) were added to a solution of tert-butyl (Z)-(2S)-2-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate (13.0 g) [see Preparation 4] in dichloromethane (180 ml). The reaction mixture was stirred for 2 hours under an atmosphere of nitrogen, after which time the mixture was diluted with dichloromethane and 1N aqueous citric acid solution. The organic layer was separated, washed with saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulphate and the solvent was removed under reduced pressure to afford tert-butyl (Z)-(2S)-2-(amino[(2-phenylacetyl)oxy]iminomethyl)-1-piperidinecarboxylate (17.63 g) as a white solid.

reactant | 1-Hydroxybenzotriazole hydrate | 8.67 g | O.ON1N=NC2=C1C=CC=C2
reactant | phenylacetic acid | 8.0 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | N-methylmorpholine | 14.69 ml | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 12.29 g | Cl.CN(CCCN=C=NCC)C
reactant | tert-butyl (Z)-(2S)-2-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate | 13.0 g | N\C(\[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=N/O | C11H21N3O3
catalyst | 4-dimethylaminopyridine | 3.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
solvent | citric acid | 1N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | tert-butyl (Z)-(2S)-2-(amino[(2-phenylacetyl)oxy]iminomethyl)-1-piperidinecarboxylate | 17.63 g | N\C(\[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=N/OC(CC1=CC=CC=C1)=O | C19H27N3O4
